US06765012B2
Diethyl-[3-(2-fluoro-4-nitro-phenoxy)-propyl]-amine
In a manner similar to that described in Example 231 a, 3,4-difluoronitrobenzene (6.7 mL, 60.6 mmol, 1 equiv.) and 3-diethylamino-1-propanol (9 mL, 1 equiv.) are converted to the named compound as a brown oil (16.3 g).

reactant | 3,4-difluoronitrobenzene | 60.6 mmol, 6.7 mL, 1 equiv. | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | 3-diethylamino-1-propanol | 9 mL, 1 equiv. | C(C)N(CCCO)CC | C7H17NO
product | Diethyl-[3-(2-fluoro-4-nitro-phenoxy)-propyl]-amine | C(C)N(CCCOC1=C(C=C(C=C1)[N+](=O)[O-])F)CC | C13H19FN2O3
